US04560699
A solution of methyl 1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (2.50 g, 0.015 mole) in dry xylene (100 ml) containing the acid chloride of 4-ethynylbenzoic acid [4.40 g, 0.026 mole; L. E. Salisbury, J. Org. Chem., 43, 4987 (1978)] was heated at reflux temperature for 12 hours. The solvent was removed in vacuo and the residue was purified by chromatography on alumina (200 g) using hexane/ethyl acetate (95:5) as the eluting solvent to give methyl 5-(4-ethynylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate, m.p. 113°-114° C.

reactant | methyl 1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 0.015 mole, 2.50 g | C1(C=2N(CC1)C=CC2)C(=O)OC | C9H11NO2
reactant | 4-ethynylbenzoic acid | 0.026 mole, 4.40 g | C(#C)C1=CC=C(C(=O)O)C=C1 | C9H6O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 5-(4-ethynylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C(#C)C1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)OC)C=C1 | C18H15NO3
